US04859229
A solution of 4.67 g of ethyl 3-amino-4,4,4-trifluorocrotonate in 15 ml of toluene is added dropwise while stirring at 0° C. during 20 minutes to a suspension of 1.11 g of a 55% sodium hydride dispersion in 30 ml of absolute dimethylformamide, and the mixture is stirred at 0° C. for 15 minutes. The reaction mixture is subsequently cooled to -40° C. and a solution of 6.24 g of 2-chloro-4-fluoro-5-isocyanatophenyl methyl carbonate in 30 ml of toluene is added dropwise during 5 minutes. The reaction mixture is stirred at room temperature for 1 hour and stirred for a further 30 minutes with a solution of 5.40 g of sodium carbonate in 100 ml of water. The aqueous phase is separated. extracted twice with 50 ml of diethyl ether each time and adjusted to pH 1 with 8 ml of 2N hydrochloric acid. The mixture is extracted twice with 100 ml of diethyl ether each time and the organic phases are washed with water. dried over anhydrous sodium sulphate and evaporated to dryness under reduced pressure. The residue is recrystallized from diethyl ether/n-hexane. There is obtained 3-(4-chloro-2-fluoro-5-hydroxyphenyl)-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione, m.p. 223°-225° C.

reactant | ethyl 3-amino-4,4,4-trifluorocrotonate | 4.67 g | N\C(=C/C(=O)OCC)\C(F)(F)F | C6H8F3NO2
reactant | sodium hydride | [H-].[Na+]
reactant | 2-chloro-4-fluoro-5-isocyanatophenyl methyl carbonate | 6.24 g | C(OC1=C(C=C(C(=C1)N=C=O)F)Cl)(OC)=O | C9H5ClFNO4
reactant | sodium carbonate | 5.40 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 ml | O | H2O
product | 3-(4-chloro-2-fluoro-5-hydroxyphenyl)-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | ClC1=CC(=C(C=C1O)N1C(NC(=CC1=O)C(F)(F)F)=O)F | C11H5ClF4N2O3
